US07951836B2
d) 3-(4-Trifluoromethyl-phenyl)-pyrrolidine
0.08 mmol 3-(4-Trifluoromethyl-phenyl)-2,5-dihydro-1H-pyrrole was dissolved in MeOH and HCl in ether was added until pH 1. After 5 minutes stirring, the solvents were evaporated. To a solution of this salt in 0.7 ml methanol under argon was added 2 mg Pd/C 10% and the mixture was hydrogenated under atmospheric pressure of hydrogen at room temperature for 4 h. The mixture was cooled, flushed with argon, diluted with methanol, filtered and the solvent was removed in vacuo to yield the title compound (64%) as an oil MS (m/e): 216.3 ([M+1], 100%).

reactant | 3-(4-Trifluoromethyl-phenyl)-2,5-dihydro-1H-pyrrole | 0.08 mmol | FC(C1=CC=C(C=C1)C=1CNCC1)(F)F | C11H10F3N
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 3-(4-Trifluoromethyl-phenyl)-pyrrolidine | 64% | FC(C1=CC=C(C=C1)C1CNCC1)(F)F | C11H12F3N
